Name:  ___          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Dyspnea and chest tightness
 
Major Surgical or Invasive Procedure:
___ Pharmacologic nuclear stress test
 
History of Present Illness:
___ year old female with history of HTN, HLD, hx of CVA, CAD s/p 
BMS to circumflex and POBA (___), on Aspirin and Plavix, CHF 
(EF 45% in ___, diabetes, presenting with acute onset 
shortness of breath and substernal chest tightness since ___ 
evening. 

Patient notes that ___ evening had a large seafood dinner 
which is not usual for her, and then later around 10pm had acute 
onset of SOB feeling like she could not take deep breaths with 
chest tightness (patient notes this is her "angina"). Denies 
pleuritic component to CP, described as central and across lower 
rib cage, persistent since onset, no radiation to the 
shoulders/jaw/back, no diaphoreses. Worsens with activity, 
improves somewhat with rest. Patient does not it feels like 
other episodes when she then required her stent placement. Took 
a SLNx1, which improved her symptoms though these persisted, but 
almost immediately led to abdominal discomfort with vomiting x1, 
nonbloody with dinner pieces. ___, 1 day prior to admission, 
decided to see if her pain improved on its own, then when it 
persisted on ___, husband arranged for UC appt at ___ 
___. At PCP, ___, SBP up to 200s, EKG with ST 
depressions in the precordial leads, specifically V3, V4 and V5, 
given full dose ASA and SLNx1, and sent to the ED given concern 
for ACS versus HTN emergency. 

Patient reporting baseline sleeps with 2 pillows, unchanged 
recently, no cough, PND, orthopnea with 2 pillows. Worsening DOE 
since onset of symptoms, now unable to complete a block where 
she used to be able to walk a few blocks at a time without 
stopping ___ SOB/CP. Denies new ___ edema (baseline says L leg > 
R).

Also had emesis last night x 1; no diaphoresis, no chest pain, 
no radiation of symptoms anywhere. No diarrhea or constipation, 
no dysuria, no focal weakness/numbness. On ROS, also with some L 
leg tingling intermittently, stable and chronic. Had diarrhea x1 
on ___ following ___ seafood dinner, normal BMs since 
then. 
 
In the ED initial vital signs; T 98 P 88 BP 190/120 R 18 O2 Sat 
98% 3L nasal cannula. Labs notable for Cr 2.1 (baseline 
2.1-2.7), BUN 29. wbc 4.3, H/H 8.6/26.0, Plt 147. Initial and 
rpt Tn <0.01. BNP 4279. CXR showed no pulmonary edema, pleural 
effusions, or consolidation, borderline cardiomegaly. The 
patient received carvedilol, nebulizers, and IV lasix. It is 
unclear how much UOP the patient has as it was not documented in 
the ED. 

The patient was seen by cardiology in the ED who felt that in 
the setting of systolic heart failure, her dyspnea was likely 
due to a CHF exacerbation in the setting of dietary 
indiscretion. Diuresis was recommended in addition to increasing 
carvedilol to 12.5mg BID, as well as a nuclear stress test this 
morning.

On the floor, the patient c/o of some improved dyspnea/chest 
tightness as well as wheezing (no COPD/asthma history, no 
significant smoking history), but otherwise has no acute 
complaints. Given her continued SOB and wheezing, she was 
written for nebulizers and steroids for reactive airway disease 
overnight.
 
Past Medical History:
- hypertension  
- diabetes  
- hx CVA (cerebellar-medullary stroke in ___  
- CAD (hx of MI in ___ BMS to circumflex and POBA ___  
- peripheral arterial disease- claudication, followed by 
vascular, managed conservatively
- stage IV CKD (baseline 2.1-2.6)  
- GERD/esophageal rings
 
Social History:
___
Family History:
Niece had some sort of cancer. Father died in his ___ due to 
lung disease.  Mother died in her ___ due to an unknown cause.  
No early CAD or sudden cardiac death. No other known history of 
cancer.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
===========================
Vitals: Tm 98, Tc 98, HR 68 (68-78), BP 191/103 
(163-191/86-103), RR 18 (24 on my check), O2 Sat 94-100%RA
FSBS 250s
General: Obese woman lying in bed in NAD, audible wheezing with 
some tachypnea. Speaking in ___ word sentences with slow speech.
HEENT: PERRL, EOMI with ___ beats of nystagmus on rightward gaze 
in both eyes, no other nystagmus, sclera anicteris, some 
conjunctibal pallor, MMM, clear posterior OP, no lesions, 
symmetric palate elevation, tongue midline.
Neck: No cervical/supraclavicular LAD, no notable JVD (difficult 
to assess ___ body habitus)
CV: RRR, soft S1, normal S2, no murmurs noted.
Lungs: Diffuse expiratory rhonchi this morning, no wheezing on 
lung exam, with crackles in bilateral bases up ___ of back. Poor 
air movement overall.
Abdomen: soft, obese, nontender, nondistended, +BS. Unable to 
adequately assess organomegaly.
GU: No foley
Ext: wwp, 2+ peripheral pulses, 3+ pitting edema to knee on L, 
2+ pitting edema in R leg.
Neuro: CN2-12 notable for rightward gaze nystagmus ___ beats), 
otheriwse intact. A+O to person, hospital, month, year (date was 
wrong on calendar so did not know date). No pronator drift, some 
positional tremor in bilateral hands. FNF with hesitancy at 
end-action. No asterixis. Sensation to light touch grossly 
intact in all extremities. No truncal ataxia sitting upright in 
bed during exam. Gait testing deferred. Noted to have repetitive 
movements at rest with L hand (wringing sheets, tapping, etc. 
seemingly patient unaware).
Skin: No obvious rashes/excoriations on extremities and 
abdomen/back.

DISCHARGE PHYSICAL EXAM:
===========================
Vitals: Tm 98.1, 146/64 (SBP 110-146), 70-76, 18, 98%RA
Weight: 75.9 kg
General: Obese woman in NAD. 
HEENT: PERRL, EOMI with ___ beats of nystagmus on rightward gaze 
in both eyes, no other nystagmus, sclera anicteris, some 
conjunctibal pallor, MMM, clear posterior OP, no lesions, 
symmetric palate elevation, tongue midline.  
Neck: No notable JVD (difficult to assess ___ body habitus)
CV: RRR, soft S1, normal S2, no murmurs noted.
Lungs: CTAB 
Abdomen: soft, obese, nontender, nondistended, +BS. Unable to 
adequately assess organomegaly.
Ext: wwp, 2+ peripheral pulses, no pitting edema
 
Pertinent Results:
==== ADMISSION LABS ====
___ 04:00PM BLOOD WBC-4.3 RBC-2.84* Hgb-8.6* Hct-26.0* 
MCV-92 MCH-30.4 MCHC-33.2 RDW-14.2 Plt ___
___ 04:00PM BLOOD Neuts-71.5* ___ Monos-4.5 Eos-2.6 
Baso-0.1
___ 04:00PM BLOOD ___ PTT-24.5* ___
___ 04:00PM BLOOD Glucose-325* UreaN-29* Creat-2.1* Na-141 
K-4.0 Cl-106 HCO3-24 AnGap-15
___ 07:55AM BLOOD Calcium-9.5 Phos-3.5# Mg-1.5*

___ 07:00PM URINE Color-Yellow Appear-Clear Sp ___
___ 07:00PM URINE Blood-NEG Nitrite-NEG Protein-100 
Glucose-300 Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-SM 
___ 07:00PM URINE RBC-2 WBC-4 Bacteri-FEW Yeast-NONE Epi-1
___ 07:00PM URINE CastHy-6*

___ 04:00PM BLOOD cTropnT-<0.01 proBNP-4279*
___ 09:30PM BLOOD cTropnT-<0.01

==== IMAGING ====

___ CHEST (PA AND LAT):
The lungs are clear of consolidation, effusion, or edema. 
Cardiac silhouette is top normal. Descending thoracic aorta is 
tortuous with atherosclerotic calcification seen at the arch. No 
acute osseous abnormalities identified. 
IMPRESSION:  
No acute cardiopulmonary process.

___ P-MIBI:
Clinical Indication: SS CHEST TIGHTNESS ASSESS FOR EVIDENCE OF 
ISCHEMIA  
HISTORY: ___ yo woman with a history of CAD and CHF referred for 
evaluation of chest pain and dyspnea.

SUMMARY FROM THE EXERCISE LAB: 
For pharmacologic coronary vasodilatation dipyridamole was 
infused intravenously for 4 minutes at a dose of 0.142 
milligram/kilogram/min. She had no anginal symptoms or ischemic 
ECG changes.

TECHNIQUE: 
ISOTOPE DATA: (___) 11.0 mCi Tc-99m Sestamibi Rest; 
(___) 29.6 mCi Tc-99m Sestamibi Stress; DRUG DATA: (Non-NM 
admin) Dipyridamole;

IMAGING METHOD:
Resting perfusion images were obtained with Tc-99m sestamibi. 
Tracer was injected approximately 45 minutes prior to obtaining 
the resting images. 
Following resting images and following intravenous infusion, 
approximately three times the resting dose of Tc-99m sestamibi 
was administered intravenously. Stress images were obtained 
approximately 30 minutes following tracer injection. 
Imaging protocol: Gated SPECT. 
This study was interpreted using the 17-segment myocardial 
perfusion model. 

FINDINGS: 
The image quality is adequate but limited due to soft tissue and 
breast attenuation.
Left ventricular cavity size is increased.
Rest and stress perfusion images reveal uniform tracer uptake 
throughout the left ventricular myocardium. 
Gated images reveal normal wall motion. 
The calculated left ventricular ejection fraction is 59% with an 
EDV of 117 ml.

IMPRESSION:
1. Normal myocardial perfusion. 
2. Increased left ventricular cavity size with normal systolic 
function.
Compared with prior study of ___, the cavity size is 
larger.
 
 
Brief Hospital Course:
___ year old female with history of HTN, CVA, CAD (s/p BMS to 
circumflex in ___, CHF (EF 45% in ___ who presented 
with acute onset shortness of breath and substernal chest 
tightness.

# Shortness of breath:
Patient with acute onset SOB following seafood meal with 
associated chest tightness (see below). Patient with crackles 
and expiratory rhonchi on lung exam. CXR did not show 
significant pulmonary edema, pleural effusions, or consolidation 
although her BNP was elevated. Per pharmacy records, patient had 
not refilled lasix prescription since ___. Overall, 
presentation was most consistent with a mild CHF exacerbation. 
She received treatment with IV lasix and her shortness of breath 
subsequently improved quickly. She was able to be transitioned 
to a PO regimen of lasix 40mg qday on ___ (day of discharge). 
Dry weight on day of discharge was 75.9kg.

# Chest Tightness:
Patient reported chest tightness associated with her shortness 
of breath. Was given aspirin and SL nitroglycerin in her PCP's 
office prior to being directed to the ED. Troponin was negative 
x2. EKG without evidence of acute ischemia. Due to her 
significant CAD history, she underwent a P-MIBI on ___ which 
was unremarkable. Her chest tightness was thought to be of 
non-cardiac etiology.

# HTN:
Patient presented with SBP of 190-200. Cardiology was consulted 
and recommended increasing her carvedilol from 6.25mg BID to 
12.5mg BID. With this change, and continuation of her other home 
medications, her blood pressure decreased to systolics in range 
of 110-146 on day of discharge. It is unclear whether her very 
elevated BP on admission was occurring in the setting of 
medication non-compliance. Nifedipine was decreased from BID to 
daily given increased carvedilol and addition of Lasix (which 
patient was believed to have been non-compliant with prior to 
this admission).

==== TRANSITIONAL ISSUES ====

# CHF:
- ___ services for medication teaching and pill-box, as well as 
weights
- Follow up with her cardiologist Dr. ___ on ___
- Please check repeat Chem-10 and CBC on ___
- Continue furosemide 40mg qday

# Hct Drop: Patient with chronic anemia and Hgb drop on day of 
discharge from 9.3 to 8.5.
- Repeat CBC check on ___

# HTN:
- Increased carvedilol to 12.5mg BID
- Nifedipine was decreased from BID to daily given increased 
carvedilol and addition of lasix (with which patient was likely 
non-compliant prior to this admission).

# Health Screening
- Patient is due for colonoscopy this year.
- PCP follow up with Dr. ___ on ___

# Weight at discharge: 75.9 kg

# Code: Full (confirmed with patient)
# Emergency Contacts:
- ___, ___ (___)
- Alternate HCP ______)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Clopidogrel 75 mg PO DAILY 
3. Furosemide 40 mg PO DAILY 
4. Multivitamins 1 TAB PO DAILY 
5. Ranitidine 300 mg PO DAILY 
6. Atorvastatin 80 mg PO DAILY 
7. HumuLIN 70/30 (insulin NPH and regular human) 30 units 
subcutaneous daily 
8. Nitroglycerin SL 0.3 mg SL PRN chest pain 
9. Vitamin D ___ UNIT PO DAILY 
10. NIFEdipine CR 60 mg PO BID 
11. Lisinopril 40 mg PO DAILY 
12. Allopurinol ___ mg PO DAILY 
13. Ferrous Sulfate 325 mg PO DAILY 
14. Carvedilol 6.25 mg PO BID 

 
Discharge Medications:
1. Outpatient Lab Work
Please draw Chem-10 and CBC on ___.
Indication: 428.0 (CHF) and anemia (280.1)
Send results to Dr. ___ (fax: ___
2. Nitroglycerin SL 0.3 mg SL PRN chest pain 
3. Vitamin D ___ UNIT PO DAILY 
4. Ranitidine 300 mg PO DAILY 
5. NIFEdipine CR 60 mg PO DAILY 
6. Multivitamins 1 TAB PO DAILY 
7. Allopurinol ___ mg PO DAILY 
8. Aspirin 81 mg PO DAILY 
9. Atorvastatin 80 mg PO DAILY 
10. Clopidogrel 75 mg PO DAILY 
11. Ferrous Sulfate 325 mg PO DAILY 
12. Furosemide 40 mg PO DAILY 
RX *furosemide 40 mg 1 tablet(s) by mouth qday Disp #*30 Tablet 
Refills:*0
13. HumuLIN 70/30 (insulin NPH and regular human) 30 units 
subcutaneous daily 
14. Lisinopril 40 mg PO DAILY 
15. Carvedilol 12.5 mg PO BID 
RX *carvedilol 12.5 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
- Acute on chronic decompensated systolic heart failure

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ were admitted to ___ on ___ with shortness of breath. 
___ were diagnosed with an exacerbation of your heart failure, a 
result of retaining too much fluid. ___ were treated with 
diuretics and removal of this fluid with subsequent improvement 
in your symptoms. We also increased your carvedilol dose for 
better blood pressure control.

It is very important that ___ weigh yourself every morning, call 
MD if weight goes up more than 3 lbs. Taking your furosemide 
will keep ___ from retaining fluid.

Sincerely,
Your ___ Team
 
Followup Instructions:
___